Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
facial ___

 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Mr ___ is a ___ male with h/o HTN, DMII, glaucoma, 
trigeminal neuralgia dx ___ with recent exacerbation in ___ 
presenting with increasing right sided facial ___ leading to 
decreased ability to complete ADLs. 

Patient has been seen several times in ED ___, 
___ for similar complaints thought secondary to 
exacerbation of trigeminal neuralgia. Last month, patient had 
normal head CT, Last MRI was in ___ which was benign. On 
previous ED visits, neurology consulted in the ED and his 
outpatient regimen was changed from gabapentine to 
nortriptyline, then to topiramate. Patient followed up with 
neurology ___ and his topiramate was changed to 
oxcarbazepine given increasing concern for SUNCT (Short-lasting 
unilateral neuralgiform headache) syndrome. Since that 
appointment patient reports worsening symptoms of right facial 
___, excessive right eye tearing, and headaches. Denies CP, 
SOB. 

In the setting of worsening ___ presented to the ED, where 
initial VS: 9 97.7 75 157/72 16 100%. Labs notable for K 3.2 
otherwise wnl.  
Patient was given percocet for ___ control with incomplete 
relief.
and then given 1mg dilaudid with improvement. A neuro consult 
was obtained. Per neurology patient appears to have the same 
headache as before, just progressive. Recommended prednisone 
pulse (60mg x5days) which was started int the ED. Neuro 
ultimately urged patient to speak with outpatient neurologist 
Dr. ___ future regimens/ 
In the setting of uncontrolled ___ decision made to admit to 
medicine for ___ control with neuro consultation. 
VS prior to transfer:  98.1 °F (36.7 °C). Pulse 62. Respiratory 
Rate 16. Blood Pressure 133/77. O2 Saturation 99. ___ Level 0.
 
On arrival to the floor, patient continues to complain of facial 
___.
 
REVIEW OF SYSTEMS:  
(+) per HPI  
(-) fever, chills, night sweats, headache, vision changes, 
rhinorrhea, congestion, sore throat, nausea, vomiting, 
constipation, BRBPR, melena, hematochezia, dysuria, hematuria.  

 
Past Medical History:
# Hypertension
# hyperlipidemia
# possible trigeminal neuralgia, now possibly SUNCT syndrome, 
# traumatic injury to left leg with the nail infection
# diet-control diabetes type 2
# subclinical hypothyroidism
# Glaucoma
# history of alcoholism with alcoholism-related seizures in 
1990s,
 
Social History:
___
Family History:
Mother died at ___ with possible stomach cancer and hypertension. 
 Father died at ___ from unclear reason; had alcoholism.  
History of COPD in one sister 
One brother died from as a conjoined twin as a neonate and then
another as a motor vehicle accident.  One son murdered with a
gunshot wound.  Two sons and two daughters are well  

 
Physical Exam:
ADMISSION PHYSICAL EXAM:
VS: 97.7  164/96  64  18  99%RA
GENERAL: well appearing   
HEENT: NC/AT, PERRLA, EOMI, right lid ptosis, sclerae anicteric, 
MMM  
NECK: supple, no LAD  
LUNGS: CTA bilat, no r/rh/wh, good air movement, resp unlabored, 
no accessory muscle use  
HEART: RRR, no MRG, nl S1-S2  
ABDOMEN: normal bowel sounds, soft, non-tender, non-distended, 
no rebound or guarding, no masses
EXTREMITIES: no edema, 2+ pulses radial and dp
NEURO: awake, A&Ox3, CNs II-XII grossly intact, ___ on palp of 
the trigeminal nerive distribition but senstation intact, muscle 
strength ___ throughout, sensation grossly intact throughout

DISCHARGE PHYSICAL EXAM:
Vitals: 98.2, 98.1, 52-66, 100-188/80-100, 16, 98%RA
I/O: 280/450
GENERAL: well appearing middle-aged Hispanic male in NAD  
HEENT: NC/AT, PERRLA, EOMI, right lid ptosis, sclerae anicteric, 
MMM  
NECK: supple, no LAD  
LUNGS: CTA bilat, no r/rh/wh, good air movement, resp unlabored, 
no accessory muscle use  
HEART: RRR, no MRG, nl S1-S2  
ABDOMEN: normal bowel sounds, soft, non-tender, non-distended, 
no rebound or guarding, no masses
EXTREMITIES: no edema, 2+ pulses radial and dp
NEURO: awake, A&Ox3, CNs II-XII grossly intact, ___ on 
palpation of V1 and V2 distribution on R, sensation intact and 
symmetric in all 3 CN V distributions 

 
Pertinent Results:
ADMISSION LABS:
___ 02:29PM   GLUCOSE-114* UREA N-15 CREAT-0.9 SODIUM-144 
POTASSIUM-3.2* CHLORIDE-107 TOTAL CO2-25 ANION GAP-15
___ 02:29PM   estGFR-Using this
___ 02:29PM   WBC-6.9 RBC-4.63 HGB-15.0 HCT-42.5 MCV-92 
MCH-32.4* MCHC-35.2* RDW-12.9
___ 02:29PM   NEUTS-67.5 ___ MONOS-6.8 EOS-1.7 
BASOS-0.4
___ 02:29PM   PLT COUNT-249

DISCHARGE LABS:
___ 05:28AM BLOOD WBC-8.9 RBC-4.23* Hgb-13.7* Hct-39.9* 
MCV-95 MCH-32.5* MCHC-34.4 RDW-12.9 Plt ___
___ 05:28AM BLOOD Glucose-95 UreaN-25* Creat-0.9 Na-140 
K-3.2* Cl-101 HCO3-31 AnGap-11
___ 05:28AM BLOOD Calcium-8.8 Phos-4.1 Mg-2.3

 
Brief Hospital Course:
Mr ___ is a ___ male with h/o HTN, DMII, glaucoma, 
trigeminal neuralgia dx ___ with recent exacerbation in ___ 
presenting with increasing right sided facial ___ leading to 
decreased ability to complete ADLs.

# Facial ___. Though secondary to trigeminal neuralgia with 
potential evolution to Short-lasting unilateral neuralgiform 
headache. Outpatient ___ regimens, most recently oxycarbezapime 
have failed. Previous head CT without abnl and neuro exam, with 
exception of lid ptosis, non-focal. His ___ was controlled with 
oral dilaudid. He was maintained on an aggressive bowel regimen. 
He was also started on a steroid pulse of 60mg for 5 days. He 
was also seen by neurology who recommended increasing his 
oxcarbazepine to 300 mg BID. He was also evaluated by the ___ 
service and was started on pregabalin 150mg PO TID. He was 
evaluated for possible cyberknife treatment, lidocaine infusions 
or nerve blocks which can be explored as an outpatient.

# Constipation: As a result of decreased PO intake and use of 
dilaudid for ___ control, the patient became constipated. He 
was started on an aggressive bowel regimen but ultimately 
required manual disimpaction to relieve obstruction. Following 
disimpaction, he was maintained on a bowel regimen and had 
normal bowel movements with no further episodes of constipation. 


# Hypertension. Currently elevated in the setting of ___. NO 
Cardiovasicular complaints. He was continued on home lisinopril, 
atenolol.

# Hyperlipidemia: Continued on statin.

# Diabetes mellitus: Diet-controlled. Started on diabetic diet 
and maintained on sliding scale.

TRANSITIONAL ISSUES:
-will need to follow up with Dr. ___ the ___ service for 
definitive management of facial ___

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Ibuprofen 400 mg PO Q8H:PRN ___ 
take with food 
2. Lisinopril 20 mg PO DAILY Start: In am 
HOld for sbp<100 
3. Atorvastatin 40 mg PO DAILY Start: In am 
4. Cyanocobalamin 500 mcg PO DAILY Start: In am 
5. Aspirin 81 mg PO DAILY Start: In am 
6. Atenolol 50 mg PO DAILY Start: In am 
HOld for sbp<100, hr<50 
7. Timolol Maleate 0.5% 1 DROP BOTH EYES BID 
8. calcium carb &cit-vit D3 *NF* 600 mg calcium- 500 unit Oral 
daily 
9. Oxcarbazepine 150 mg PO BID 

 
Discharge Medications:
1. Aspirin 81 mg PO DAILY 
2. Atenolol 50 mg PO DAILY 
HOld for sbp<100, hr<50 
3. Atorvastatin 40 mg PO DAILY 
4. Cyanocobalamin 500 mcg PO DAILY 
5. Ibuprofen 400 mg PO Q8H:PRN ___ 
take with food 
6. Lisinopril 20 mg PO DAILY 
HOld for sbp<100 
7. Timolol Maleate 0.5% 1 DROP BOTH EYES BID 
8. Docusate Sodium 100 mg PO BID 
RX *docusate sodium [Colace] 100 mg 1 capsule(s) by mouth twice 
a day Disp #*60 Capsule Refills:*0
9. HYDROmorphone (Dilaudid) ___ mg PO Q4H ___ 
RX *hydromorphone [Dilaudid] 2 mg ___ tablet(s) by mouth q4hours 
Disp #*84 Tablet Refills:*0
10. Polyethylene Glycol 17 g PO DAILY:PRN constipation 
RX *polyethylene glycol 3350 [Miralax] 17 gram/dose 1 dose by 
mouth daily Disp #*1 Bottle Refills:*0
11. Senna 1 TAB PO BID:PRN constipation 
RX *sennosides [senna] 8.6 mg 1 tab by mouth twice a day Disp 
#*60 Capsule Refills:*0
12. calcium carb &cit-vit D3 *NF* 600 mg calcium- 500 unit Oral 
daily 
13. Oxcarbazepine 300 mg PO BID 
RX *oxcarbazepine 300 mg 1 tablet(s) by mouth twice a day Disp 
#*60 Tablet Refills:*0
14. Tucks Hemorrhoidal Oint 1% 1 Appl PR QID: PRN ___, itching 
RX *pramoxine-mineral oil-zinc [Tucks] 1 %-12.5 % 1 Ointment(s) 
rectally four times a day Disp #*1 Tube Refills:*0
15. Pregabalin 150 mg PO BID 
RX *pregabalin [Lyrica] 150 mg 1 capsule(s) by mouth twice a day 
Disp #*60 Capsule Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
1. SUNCT: short-lasting unilateral neuralgiform headache with 
conjunctival injection and tearing
2. Diabetes mellitus
3. hyperlipidemia
4. hypertension

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you during your admission at 
___. You were admitted for severe ___ in your face. You were 
seen by neurology and started on steroids to reduce 
inflammation. These will take several days to work. You were 
also given ___ medication in the meantime to help with your 
discomfort. The ___ service evaluated you and recommended the 
following to help control your ___: adding Lyrica and following 
up in the ___ clinic for possible nerve blocks. You were also 
found to be very constipated, likely as a result of ___ 
medication. You received an aggressive bowel regimen and 
assistance with moving your bowels.

The following changes were made to your medications: Your 
Trileptal was increased to 300mg twice a day and Lyrica was 
added to your regimen.
 
Followup Instructions:
___